US07642263B2
Methyl 5-chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylate
A solution of 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (1.0 g, 2.47 mmol), ethyl 5,6-dichloronicotinate (0.57 g, 2.59 mmol), and potassium carbonate (0.855 g, 6.14 mmol) in acetonitrile (15 mL) was heated at 160° C. for 4 hours using microwave heating. The acetonitrile was removed in vaccuo and the residual oil partitioned between water (50 mL) and ethyl acetate (75 mL). The ethyl acetate layer was separated, washed with brine, dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with 50% ethyl acetate in hexane to give the desired compound (1.1 g). The analytical data indicated that transesterification had occurred at some stage in the procedure to furnish the methyl ester.

reactant | 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 2.47 mmol, 1.0 g | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)(C)C | C20H31N3O4Si
reactant | ethyl 5,6-dichloronicotinate | 2.59 mmol, 0.57 g | ClC=1C(=NC=C(C(=O)OCC)C1)Cl | C8H7Cl2NO2
reactant | potassium carbonate | 6.14 mmol, 0.855 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Methyl 5-chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylate | 1.1 g | ClC=1C=C(C=NC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C(=O)OC | C27H35ClN4O6Si
